US07875715B2
Intermediate 11: 5-{[(3-Methoxyphenyl)amino]methylene}-2,2-dimethyl-1,3-dioxane-4,6-dione
A mixture of m-anisidine (22 g, 178 mmol), 2,2-dimethyl-1,3-dioxane-4,6-dione (30.75 g, 214 mmol) and triethylorthoformate (30 mL, 178 mmol) in ethanol (200 mL) was heated at 85° C. for two hours. The mixture was allowed to cool to room temperature and the precipitate was collected by filtration and washed with ethanol to give 43.7 g (89% yield) of product as a pale yellow solid, mp 108° C.

reactant | m-anisidine | 178 mmol, 22 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 214 mmol, 30.75 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | triethylorthoformate | 178 mmol, 30 mL | C(C)OC(OCC)OCC | C7H16O3
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-{[(3-Methoxyphenyl)amino]methylene}-2,2-dimethyl-1,3-dioxane-4,6-dione | 43.7 g, 89% yield | COC=1C=C(C=CC1)NC=C1C(OC(OC1=O)(C)C)=O | C14H15NO5
